US06548495B2
5-Methoxy-2-nitro-4-trifluoromethyl-phenylamine
The title compound was prepared from 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7] (4.61 g, 19.2 mmol) and KOH (2.78 g, 42.2 mmol) in MeOH (20 mL) and DMSO (40 mL) according to the general procedure E. Obtained as a yellow solid (4.18 g).

reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | 19.2 mmol, 4.61 g | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | KOH | 42.2 mmol, 2.78 g | [OH-].[K+]
reactant | MeOH | 20 mL | CO | CH4O
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 5-Methoxy-2-nitro-4-trifluoromethyl-phenylamine | COC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C8H7F3N2O3
